US04031160
The 2-amino-4-hydroxy-5-chloro toluene hydrochloride thus obtained is dissolved in water. The solution is alkalized with ammonia and drying yields 33.8 g of 2-amino-4-hydroxy-5-chloro toluene, which after recrystallization in benzene, melts at 144.5° C.

reactant | 2-amino-4-hydroxy-5-chloro toluene hydrochloride | Cl.NC1=C(C=C(C(=C1)O)Cl)C
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 2-amino-4-hydroxy-5-chloro toluene | 33.8 g | NC1=C(C=C(C(=C1)O)Cl)C | C7H8ClNO
